US06136974
5-[(3-{1 H-Tetrazol-5-Yl}Propyl)Thio]-3-Methyl-1-(2-Methylpropyl)-6-(1-Naphthalenyl-Methyl)-1 H-Pyrrolo [3,4-d]Pyrimidine-2,4(3 H,6 H)-Dione
The compound of Example 18, 4-[(2,3,4,6-tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxo-1 H-pyrrolo[3,4-d]pyrimidin-5-yl)thio]butanenitrile (98 mg) was dissolved in toluene (20 ml) and trimethyltin azide (100 mg) was added. The solution was heated under reflux for 110 hours, then the solvent was evaporated and the residue was chromatographed, eluting with ethanol:dichloromethan(1:19), to give the title compound (30 mg).

reactant | 4-[(2,3,4,6-tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxo-1 H-pyrrolo[3,4-d]pyrimidin-5-yl)thio]butanenitrile | 98 mg | CN1C(N(C=2C(C1=O)=C(N(C2)CC2=CC=CC1=CC=CC=C21)SCCCC#N)CC(C)C)=O | C26H28N4O2S
reactant | trimethyltin azide | 100 mg | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[(3-{1 H-Tetrazol-5-Yl}Propyl)Thio]-3-Methyl-1-(2-Methylpropyl)-6-(1-Naphthalenyl-Methyl)-1 H-Pyrrolo [3,4-d]Pyrimidine-2,4(3 H,6 H)-Dione | 30 mg | N1N=NN=C1CCCSC=1N(C=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C26H29N7O2S
